US08497356B2
N-Boc-(2-aminoethyl)-2-bromo-2-methylpropanamide.
A solution of N-Boc-ethylenediamine (5.0 mL, 32 mmol), and diisopropylethylamine (5.8 mL, 33 mmol) in anhydrous dichloromethane (35 mL) was cooled in a NaCl/ice bath (−10° C., bath temperature). Over a period of 15 minutes, 2-bromoisobutyryl bromide (4.1 mL, 33 mmol) was added to this solution. After 1 h, the ice bath was removed and the reaction was allowed to warm to room temperature and stirring was continued for 18 h. The reaction mixture was concentrated to dryness under reduced pressure giving a tan colored solid which was dry-loaded onto a silica gel column. The product was isolated by elution with ethyl acetate:dichloromethane (3:2) as an off-white solid (7.84 g, 80%). 1H NMR (CDCl3, 300 MHz): δ 7.2 (bs, 1H), 4.91 (bs, 1H), 3.33 (m, 4H), 1.93 (s, 6H), 1.43 (s, 9H). 13C NMR (CDCl3, 300 MHz): δ 172.9, 157.1, 80.1, 61.9, 42.0, 40.0, 32.5, 28.6. EIMS m/z: 331 ([M+Na]+), 333 ([M+Na]+).

reactant | N-Boc-ethylenediamine | 32 mmol, 5.0 mL | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
reactant | diisopropylethylamine | 33 mmol, 5.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-bromoisobutyryl bromide | 33 mmol, 4.1 mL | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | ethyl acetate dichloromethane | 7.84 g | C(C)(=O)OCC.ClCCl
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | N-Boc-(2-aminoethyl)-2-bromo-2-methylpropanamide | C(=O)(OC(C)(C)C)NC(C(CCCN)(C)Br)=O | C11H21BrN2O3
